US06525064B1
N′-[4-(4-amino-6,7-dimethyl-1H-imidazol[4,5-c]pyridin-1-yl)butyl]-N,N-dimethylsulfamide
Using the method of Examples 15-29, dimethylsulfamoyl chloride was reacted with 1-(4-aminobutyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired product. The observed accurate mass was 341.1770.

reactant | dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 1-(4-aminobutyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCCN1C=NC=2C(=NC(=C(C21)C)C)N | C12H19N5
product | N′-[4-(4-amino-6,7-dimethyl-1H-imidazol[4,5-c]pyridin-1-yl)butyl]-N,N-dimethylsulfamide | NC1=NC(=C(C2=C1N=CN2CCCCNS(=O)(=O)N(C)C)C)C | C14H24N6O2S
